US04245112
1.6 g of 5% palladized calcium carbonate and 0.6 g of quinoline were added to a solution of 24 g of 2,5-dimethyl-hex-3-yne-2,5-diol [Ray et al, Am. Soc., Vol. 74 (1952), p. 1247] in 200 ml of methanol and the mixture was stirred with hydrogen until hydrogen absorption ceased. The catalyst was removed by filtration and the filtrate was evaporated to dryness under reduced pressure to obtain 24.2 g of cis 2,5-dimethyl-hex-3-ene-2,5-diol melting at 64° C. which was used as is for the next step.

reactant | calcium carbonate | C([O-])([O-])=O.[Ca+2]
reactant | quinoline | 0.6 g | N1=CC=CC2=CC=CC=C12 | C9H7N
reactant | 2,5-dimethyl-hex-3-yne-2,5-diol | 24 g | CC(C)(C#CC(C)(O)C)O | C8H14O2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 200 ml | CO | CH4O
product | cis 2,5-dimethyl-hex-3-ene-2,5-diol | 24.2 g | CC(C)(\C=C/C(C)(O)C)O | C8H16O2
